US09085578B2
2-bromo-5-(3-methoxyazetidin-1-yl)pyridine
A mixture of 2-bromo-5-iodopyridine (1.00 g), 3-methoxyazetidine hydrochloride (0.435 g), tris(dibenzylideneacetone)dipalladium(0) (0.106 g), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.204 g), sodium tert-butoxide (0.846 g), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.531 mL) and toluene (30 mL) was stirred at room temperature for 3 days under argon atmosphere. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (basic silica gel, ethyl acetate/hexane) to give the title compound (625.1 mg).

reactant | 2-bromo-5-iodopyridine | 1.00 g | BrC1=NC=C(C=C1)I | C5H3BrIN
reactant | 3-methoxyazetidine hydrochloride | 0.435 g | Cl.COC1CNC1
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.204 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium tert-butoxide | 0.846 g | CC(C)([O-])C.[Na+]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.531 mL | N12CCCCCC2=NCCC1 | C9H16N2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.106 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-5-(3-methoxyazetidin-1-yl)pyridine | 625.1 mg | BrC1=NC=C(C=C1)N1CC(C1)OC | C9H11BrN2O
